US08124629B2
To a solution of [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid ethyl ester (0.63 g, 1.52 mmol) in tetrahydrofuran (6 mL) and water (6 mL) was added lithium hydroxide monohydrate (0.83 g, 1.98 mmol). The reaction mixture was heated at reflux for 3 hours. After cooling to room temperature, more water was added, and tetrahydrofuran was removed under reduced pressure. The pH was adjusted to 2 with ca. 2 mL of 4 N hydrochloric acid. The resulting light tan solid was collected by filtration to give pure [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid (0.53 g, 90%).

reactant | [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid ethyl ester | 1.52 mmol, 0.63 g | C(C)OC(CC1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)F)=O | C22H19FO5S
reactant | lithium hydroxide monohydrate | 1.98 mmol, 0.83 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid | 0.53 g, 90% | FC=1C=C2C(=CC(=CC2=CC1)CC(=O)O)C(C1=CC=C(C=C1)S(=O)(=O)C)=O | C20H15FO5S
